Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
diltiazem / Norvasc / Lisinopril
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
PEG
 
History of Present Illness:
___ is an ___ year old woman with a past medical 
history significant for atrial fibrillation on eliquis, rate 
controlled on metorpolol, HLD, hypertension, heart failure with 
preserved EF, mild to moderate pulmonary hypertension who 
presented to ___ today with confusion, headache, and
spatial disorientation. History is limited as family members 
currently not present and patient is confused. 

Apparently she was having a headache for the past three days and 
then today in the evening she was found to have difficulty with 
speech, was very confused and was not looking to her right. 
Presumably she was with a family member or someone who noticed 
this and called EMS. She was then brought to ___ where 
she was seen to be awake and alert, following some commands but 
minimal verbal output and a L gaze preference. She had a head CT 
which revealed a large occipital hemorrhage. She also underwent 
a CTA head and neck. Her eliquis was last taken on the day of 
presentation at 12 pm. She was given 1650mg of K-cenntra 
(25mg/kg) prior to transfer to ___.  

On arrival here neurology was consulted. She was noted to be 
verbal and awake but incredibly confused. She then started to 
vomit profusely everywhere. Stat head CT revealed a slight 
interval increase and extension into the lateral ventricle. Her 
mental status slightly improved after vomiting and she was able
to follow some commands but still remained quite confused.   

 
Past Medical History:
Atrial fibrillation on apixaban 
HTN
HLD
CHF
Mild to moderate pulmonary HTN 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
EXAM ON ADMISSION:
==================
Physical Exam:
Vitals: Temperature 98.5, HR 85, BP 169/84, RR 14, 97% on RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert,oriented to self only. Speaking fluently
but unable to answer any questions about where she lives, what
she is feeling. She became very irritated and started to use
profanities. She was able to repeat a sentence. She followed
midline commands. 

-Cranial Nerves:
II, III, IV, VI:  L pupil irregular, R pupil 3-->2mm. Eyes
deviated to the L, come to midline, briefly crossed over to the
R. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline 

-Motor: Lifted up arms antigravity, gave ___ strength in biceps
and triceps bilaterally. ___ in Bilateral IPs, held antigravity 

-Sensory: No deficits to light touch that I could assess for

-DTRs:
  ___ Tri ___ Pat Ach
L  1  1    1    1   1
R  1  1    1    1   1
Plantar response was mute 

-Coordination: No dysmetria 

-Gait: deferred 

EXAM ON DISCHARGE:
==================
VS: 
24 HR Data (last updated ___ @ 843)
    Temp: 96.0 (Tm 98.6), RR: 20 (___), O2 sat: 92%, O2
delivery: RA    

Exam
General: Frail and ill appearing elderly woman, mildly agitated
Head: No irritation/exudate from eyes, nose, throat
Cardio: Irregularly, irregular
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No overt rashes or lesions 

Neurologic examination 
Mental status: Patient lying in bed eyes closed, briefly opens
eyes to regard examiner before closing

Cranial nerves: deferred

Motor: left side with greater spontaneous movement than right
side
RUE: spontaneous antigravity
LUE:  spontaneous antigravity 
RLE: spontaneous antigravity
LLE: spontaneous antigravity

Sensory: deferred

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:03PM   LACTATE-0.7
___ 09:55PM   GLUCOSE-126* UREA N-17 CREAT-1.1 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-24 ANION GAP-16
___ 09:55PM   estGFR-Using this
___ 09:55PM   ALT(SGPT)-24 AST(SGOT)-36 ALK PHOS-126* TOT 
BILI-0.4
___ 09:55PM   LIPASE-56
___ 09:55PM   cTropnT-0.02*
___ 09:55PM   ALBUMIN-4.3 CALCIUM-9.8 PHOSPHATE-3.5 
MAGNESIUM-2.0
___ 09:55PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 09:55PM   WBC-7.3 RBC-3.07* HGB-9.9* HCT-30.0* MCV-98 
MCH-32.2* MCHC-33.0 RDW-12.1 RDWSD-43.8
___ 09:55PM   NEUTS-77.0* LYMPHS-13.2* MONOS-6.6 EOS-2.5 
BASOS-0.4 IM ___ AbsNeut-5.60 AbsLymp-0.96* AbsMono-0.48 
AbsEos-0.18 AbsBaso-0.03
___ 09:55PM   PLT COUNT-229
___ 09:55PM   ___ PTT-26.1 ___

LAST SET OF LABS PRIOR TO CMO:
================================
___ 05:45AM BLOOD WBC-12.4* RBC-2.42* Hgb-7.8* Hct-24.2* 
MCV-100* MCH-32.2* MCHC-32.2 RDW-12.6 RDWSD-45.6 Plt ___
___ 05:45AM BLOOD ___ PTT-23.6* ___
___ 05:45AM BLOOD Glucose-118* UreaN-29* Creat-0.9 Na-142 
K-4.2 Cl-101 HCO3-25 AnGap-16
___ 01:09AM BLOOD ALT-28 AST-50* LD(LDH)-417* CK(CPK)-153 
AlkPhos-120* TotBili-0.5
___ 01:09AM BLOOD CK-MB-5 cTropnT-<0.01
___ 05:45AM BLOOD Phos-4.3 Mg-2.0

IMAGING:
========
NCHCT ___:
IMPRESSION: 
1. Interval evolution of large left temporoparietal and 
occipital 
intraparenchymal hemorrhage with similar effacement of adjacent 
sulci and 
adjacent edema.  Rightward midline shift to 6 mm similar to 
prior. 
2. Previously described left supra tentorial and parafalcine 
subdural hematoma are not as well seen on current study. 

___ MR Head:
IMPRESSION:  
  
Severely motion degraded study, with multiple sequences being 
nondiagnostic, limiting assessment,, including GRE sequences, 
precluding assessment for cerebral amyloid angiopathy.  Within 
these confines: 
  
1. Re-demonstration of large left occipital intraparenchymal 
hematoma with 
mild surrounding vasogenic edema. 
2. Unchanged mass effect, including 5 mm rightward midline 
shift.  Within 
limits of study, no definite evidence of ventricular entrapment 
or herniation. 
3.  Within limits of study, no definite evidence of acute 
infarction, with 
artifact within left occipital lobe especially limiting 
evaluation for 
occipital infarct. 
4. Global parenchymal volume loss. 
5. If continued concern for cerebral amyloid or underlying mass, 
consider 
repeat examination when patient can tolerate study. 
  

NCHCT ___
Left parietotemporal occipital intraparenchymal lobar hemorrhage 
now measures up to approximately 6.8 x 4.1 cm in axial 
___, earlier measured at 5.9 x 3.8 cm, somewhat 
increased.  The anterior margin of the hemorrhage has erupted 
into the left lateral ventricle as well.  A small left tentorial 
and falcine subdural component to the hemorrhage appears 
unchanged.  Very small quantity of newly apparent subarachnoid 
hemorrhage may be re-circulating from the ventricular bleed and 
is suggested along a few left frontal sulci.  Owing to mass 
effect from the hemorrhage, there is rightward shift of midline 
structures up to 4 mm, very similar to the prior examination. 
Moderate edema appears similar to decreased about the mass.  
Crowding of sulci throughout the left cerebral hemisphere, 
particularly along the left frontal lobe, appears to have 
increased.  Surrounding soft tissue structures are unremarkable. 
There is no evidence for fracture or bone destruction.  
Visualized paranasal sinuses and mastoid air cells appear clear. 

  
IMPRESSION:  
  
Mild increase in large left parietotemporooccipital lobar 
parenchymal 
hemorrhage with new eruption into the ventricular system. 

NCHCT ___. Grossly stable large left parietotemporooccipital parenchymal 
hemorrhage. Stable mass-effect and 4 mm of rightward midline 
shift.  Stable subdural component, subarachnoid component, and 
intraventricular extension. 

Portable NCHCT ___. Grossly stable large left parietal/occipital/temporal 
parenchymal 
hemorrhage with intravenous extension.  Stable mass effect.  
Stable size and configuration of the ventricles. 
2. Stable trace left parafalcine and left greater than right 
paratentorial 
subdural hematoma. 

CXR ___
An enteric tube extends below the level the diaphragm but beyond 
the field of view of this radiograph. 
  
The lungs appear somewhat hyperexpanded.  Increased interstitial 
markings 
likely reflect elevated venous pressures.  There small bilateral 
pleural 
effusions as well as bibasilar atelectasis.  The size of the 
cardiomediastinal silhouette is mildly enlarged but unchanged. 
  
IMPRESSION:  
  
Pulmonary vascular congestion and mild pulmonary edema. 

CXR ___
Cardiomediastinal silhouette is unchanged. Interval improvement 
in the mild pulmonary edema and small bilateral pleural 
effusions. Bibasilar atelectasis. Interval improvement in 
bilateral perihilar opacities. Enteric tube courses below the 
diaphragm with tip terminating outside the field of view. 

IMPRESSION:  
No evidence of pneumonia. 
  

 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with atrial fibrillation on
apixaban, previous infarct (___), HTN, and HLD who was 
transferred from
___ with large left parietotemporoccipital 
intracerebral hemorrhage. 
Etiology likely due to apixaban in the setting of CAA.

Hospital course complicated by UTI and delirium. Palliative care 
team was involved in discussing
goals of care with family. After family meeting ___, family
has decided to pursue CMO and transition to hospice care.

# Left Parietotemporoccipital ICH with IVE
- Transitioned to CMO ___
- Continue to hold home ASA and apixiban 
#agitation
- Haldol PRN
#anxiety
- lorazepam PRN 
#pain
- morphine 2mg 

PREVIOUSLY ADRESSED CHRONIC MEDICAL ISSUES PRIOR TO COMFORT CARE
# Hypertension 
- Was previously on multiple medications to maintain SBP <150.
Has since been trans
# Atrial Fibrillation
- Hold apixaban, coreg, Lasix, atorvastatin
# UTI
- ___: STAPH AUREUS COAG + and ENTEROCOCCUS SP
- ___ UCX: enterococcus
- Vancomycin ___

TRANSITIONAL ISSUES:
======================
[] Care to be assumed by hospice, goals currently of comfort 
measures only

======================
AHA/ASA Core Measures for Intracerebral Hemorrhage  
1. Dysphagia screening before any PO intake? (x) Yes - () No.  
If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(stopped when transitioned to CMO)
3. Smoking cessation counseling given? () Yes - (x) No [reason 
() non-smoker - (x) unable to participate]  
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No  
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No. If no, why not? (I.e. patient at 
baseline functional status) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Atorvastatin 40 mg PO QPM 
3. Furosemide 20 mg PO DAILY 
4. Metoprolol Succinate XL 75 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Intraparenchymal Hemorrhage 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___ and ___,

Ms. ___ suffered from an intraparenchymal hemorrhage 
(bleeding in the brain) most likely from apixaban use and 
underlying cerebral amyloid. Her hospital course was complicated 
by urinary tract infections, delirium, and inability to tolerate 
eating. In order to honor Ms. ___ wishes, she was 
transitioned to hospice care with the goal of making her as 
comfortable as possible. It was a pleasure taking care of her 
and working with your family.

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___